US09056859B2
A mixture of tert-butyl 4-{[2-bromo-4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazine-1-carboxylate (380 mg, 0.84 mmol), Zn(CN)2 (59 mg, 0.51 mmol), Pd2(dba)3 (7 mg, 0.0042 mmol), TMEDA (20 mg, 0.17 mmol), and xantphos (5 mg, 0.0084 mmol) in 3 mL of DMF was stirred under microwave irradiation for 3 min at 160° C. The solvent was removed in vacuum to afford the crude compound, which was purified via prep-TLC to afford tert-butyl 4-{[2-cyano-4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazine-1-carboxylate. 1H-NMR (400 MHz, MeOD) δ ppm 9.82 (s, 1H), 8.31 (d, J=1.6 Hz, 1H), 8.12˜8.16 (m, 1H), 7.68 (d, J=7.8 Hz, 1H), 4.14 (s, 2H), 3.43˜3.72 (m, 8H), 1.48 (s, 9H).

reactant | tert-butyl 4-{[2-bromo-4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazine-1-carboxylate | 0.84 mmol, 380 mg | BrC1=C(C=CC(=C1)N1N=NN=C1)CC(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C18H23BrN6O3
reactant | TMEDA | 0.17 mmol, 20 mg | CN(C)CCN(C)C | C6H16N2
reactant | xantphos | 0.0084 mmol, 5 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 0.51 mmol, 59 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd2(dba)3 | 0.0042 mmol, 7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl 4-{[2-cyano-4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazine-1-carboxylate | C(#N)C1=C(C=CC(=C1)N1N=NN=C1)CC(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C19H23N7O3
